US05280010
A solution of 3-[4-bromo-2-fluoro-5-(2-fluoroethoxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (0.4 g) in N,N-dimethylformamide (10 ml) are added dropwise to a suspension of 60% sodium hydride (0.05 g) in N,N-dimethylformamide (10 ml) at 5° to 10° C. The mixture is allowed to stir at 10° to 20° C. for additional 30 minutes. To the mixture, 2,4-dinitrophenoxyamine (0.22 g) is added slowly at 10° to 20° C., followed by stirring at room temperature for one hour. The reaction mixture is poured into ice water and extracted with ethyl acetate. The extract is washed with water, dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel chromatography to give 1-amino-3-[4-bromo-2-fluoro-5-(2-fluoroethoxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione.

reactant | 3-[4-bromo-2-fluoro-5-(2-fluoroethoxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 0.4 g | BrC1=CC(=C(C=C1OCCF)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C13H8BrF5N2O3
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | 2,4-dinitrophenoxyamine | 0.22 g | [N+](=O)([O-])C1=C(ON)C=CC(=C1)[N+](=O)[O-] | C6H5N3O5
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-amino-3-[4-bromo-2-fluoro-5-(2-fluoroethoxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | NN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1)OCCF)Br)F)=O | C13H9BrF5N3O3
